US05284847
Ethyl 2-bis(t-butoxycarbonyl)amino-4-isopropylthiophene-3-carboxylate
A stirred mixture of ethyl 2-amino-4-isopropylthiophene-3-carboxylate (11.7 g, 55 mmol), pyridine (140 ml) and 4-dimethylaminopyridine (6.6 g, 55 mmol) was cooled to 0° C. under nitrogen, and di-tert-butyl dicarbonate (37 ml, 165 mmol) was added. The stirred mixture was maintained at 0° C. for 3 h and left at room temperature for 16 h, followed by 2h at 60° C. The mixture was concentrated in vacuo and the residue submitted to flash chromatography using silica gel 60 eluting with toluene graduated to toluene/ethyl acetate (1:3). Yield 22,5 g (99%) of ethyl 2-bis(t-butoxycarbonyl)amino-4-isopropylthiophene-3-carboxylate as an oil. 1H-NMR (CDCl3, δ): 1,2 (d, 6H), 1.35 (t, 3H), 1.4 (s, 18H), 3.5 (m, 1H), 4.25 (q, 2H), 6.85 (s, 1H).

reactant | ethyl 2-amino-4-isopropylthiophene-3-carboxylate | 55 mmol, 11.7 g | NC=1SC=C(C1C(=O)OCC)C(C)C | C10H15NO2S
reactant | di-tert-butyl dicarbonate | 165 mmol, 37 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 55 mmol, 6.6 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 140 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl 2-bis(t-butoxycarbonyl)amino-4-isopropylthiophene-3-carboxylate | C(C)(C)(C)OC(=O)N(C=1SC=C(C1C(=O)OCC)C(C)C)C(=O)OC(C)(C)C | C20H31NO6S
